US05866576
A solution of 3-(5-hexenyl)-1-methyluracil (598 mg, 2.9 mmol), 4-methylmorpholine-N oxide (408 mg, 3.5 mmol), and a 2.5% solution in t-butanol of osmium tetroxide (3 drops) in acetone (15 mL) and water (5 mL) was stirred for 3 days. After addition of a saturated solution of sodium hydrosulfite (10 mL) and 15 minutes, the reaction mixture was added to water (15 mL) and extracted with 20% ethanol/dichloromethane (4×40 mL). The combined organic layers were dried over sodium sulfate and the solvent is evaporated under vacuum to give 461 mg (66%) 3-(5,6-dihydroxyhexyl)-1-methyluracil (inventive compound no. 1811) as a colorless oil.

reactant | 3-(5-hexenyl)-1-methyluracil | 2.9 mmol, 598 mg | C(CCCC=C)N1C(N(C=CC1=O)C)=O | C11H16N2O2
reactant | 4-methylmorpholine-N oxide | 3.5 mmol, 408 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium hydrosulfite | 10 mL | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | t-butanol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | 3 drops | [Os](=O)(=O)(=O)=O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 3-(5,6-dihydroxyhexyl)-1-methyluracil | 461 mg, 66% | OC(CCCCN1C(N(C=CC1=O)C)=O)CO | C11H18N2O4
